US09079866B2
4′-(5-Amino-3-cyanopyrazin-2-yl)-3′-fluoro-N-(3-hydroxy-2,2-dimethylpropyl)biphenyl-2-sulfonamide
The title compound was prepared using conditions analogous to those used to make Example 6 utilizing 6-amino-3-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile and 2-bromo-N-(3-hydroxy-2,2-dimethylpropyl)benzenesulfonamide. MS (ESI): mass calcd. for C22H22FN5OS, 455.14; m/z found, 456.0 [M+H]+. 1H NMR (600 MHz, DMSO-δ6) δ 8.26 (s, 1H), 7.93 (dd, J=7.8, 1.5, 1H), 7.72-7.60 (m, 3H), 7.47 (dd, J=7.4, 1.5, 1H), 7.43-7.34 (m, 5H), 4.49 (t, J=5.4, 1H), 3.08 (d, J=5.4, 2H), 2.62 (d, J=6.5, 2H), 0.73 (s, 6H).

reactant | 6-amino-3-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile | NC1=CN=C(C(=N1)C#N)C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C17H18BFN4O2
reactant | 2-bromo-N-(3-hydroxy-2,2-dimethylpropyl)benzenesulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)NCC(CO)(C)C | C11H16BrNO3S
product | 4′-(5-Amino-3-cyanopyrazin-2-yl)-3′-fluoro-N-(3-hydroxy-2,2-dimethylpropyl)biphenyl-2-sulfonamide | NC=1N=C(C(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)NCC(CO)(C)C)F)C#N | C22H22FN5O3S
